US06242598B1
4,6-Diphenyl-2-(2,4-dihydroxyphenyl)-s-triazine
A 500 mL three-necked, round-bottomed flask equipped with a mechanical stirrer is charged with 60 g of xylene and 55.5 g (0.207) of 4,6-diphenyl-2-chloro-s-triazine. The mixture is warmed to 118° C. and the pressure is reduced to 300 mbar and 2.8 g of hydrogen chloride gas is charged to the system. The mixture is cooled to 80° C. and a solution of resorcinol (88.2 g, 0.802 mol) in 60 g of tetramethylene sulfone is added dropwise over a 7-minute period. The mixture is stirred at 80° C. for six hours and then for one hour at 100° C. The temperature is reduced to 60° C. and a 300 mL portion of methanol is added. The mixture is allowed to cool to room temperature and is stirred overnight. Sodium methoxide (41.3 g) is added portionwise to adjust the pH to 5.0-5.5. The solids are collected by vacuum filtration and are washed with methanol and water. After drying, the title compound is obtained in a yield of 59.2 g as a pale yellow solid.

reactant | 4,6-diphenyl-2-chloro-s-triazine | 55.5 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)Cl | C15H10ClN3
reactant | hydrogen chloride | 2.8 g | Cl | ClH
reactant | resorcinol | 0.802 mol, 88.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | Sodium methoxide | 41.3 g | C[O-].[Na+]
solvent | tetramethylene sulfone | 60 g | C1CCCS1(=O)=O | C4H8O2S
solvent | methanol | CO | CH4O
solvent | xylene | 60 g | C=1(C(=CC=CC1)C)C | C8H10
product | 4,6-Diphenyl-2-(2,4-dihydroxyphenyl)-s-triazine | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=C(C=C(C=C1)O)O | C21H15N3O2
